US06878700B1
4-Phenylpiperidine-4-carboxylic acid
4-Cyano-4-phenylpiperidine hydrochloride (2.0 g, 0.11 mol) was dissolved in 8 mL of conc. H2SO4 and 4mL of H2O, then the solution was heated at reflux for 4 hours. The solution was cooled and then NaOH was added to precipitate a white solid. The solid was collected, then dissolved in methanol, and the solution was filtered and concentrated to obtain a white solid. This dried solid was used without purification for Example 385B.

reactant | 4-Cyano-4-phenylpiperidine hydrochloride | 0.11 mol, 2.0 g | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
reactant | NaOH | [OH-].[Na+]
reactant | H2SO4 | 8 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 4mL | O | H2O
product | 4-Phenylpiperidine-4-carboxylic acid | C1(=CC=CC=C1)C1(CCNCC1)C(=O)O | C12H15NO2
